US09029371B2
To a degassed solution of 3-[2-(4-hydroxy-phenyl)-2-methyl-morpholin-4-yl]-propionic acid tert-butyl ester (1.07 g; 3.33 mmol), and 3-iodo-o-xylene (0.97 g; 4.16 mmol) in DMSO (20 mL) was added picolinic acid (82 mg; 0.67 mmol), CuI (63.4 mg; 0.33 mmol) and powdered (1.41 g; 6.66 mmol). The resulting mixture was heated for 24 h, at 90° C. After cooling to room temperature, brine was added and the mixture extracted with CH2Cl2. The combined layers were dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified by column chromatography (SiO2, Et2O/hexanes 1:1) to afford 3-{2-[4-(2,3-dimethyl-phenoxy)-phenyl]-2-methyl-morpholin-4-yl}-propionic acid tert-butyl ester (1.32 g).

reactant | 3-[2-(4-hydroxy-phenyl)-2-methyl-morpholin-4-yl]-propionic acid tert-butyl ester | 3.33 mmol, 1.07 g | C(C)(C)(C)OC(CCN1CC(OCC1)(C)C1=CC=C(C=C1)O)=O | C18H27NO4
reactant | 3-iodo-o-xylene | 4.16 mmol, 0.97 g | IC1=C(C(=CC=C1)C)C | C8H9I
reactant | picolinic acid | 0.67 mmol, 82 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
catalyst | CuI | 0.33 mmol, 63.4 mg | [Cu]I
product | 3-{2-[4-(2,3-dimethyl-phenoxy)-phenyl]-2-methyl-morpholin-4-yl}-propionic acid tert-butyl ester | 1.32 g | C(C)(C)(C)OC(CCN1CC(OCC1)(C)C1=CC=C(C=C1)OC1=C(C(=CC=C1)C)C)=O | C26H35NO4
